US05236952
4.0 g of 2-methoxy-6-nitro-4-(1H-tetrazol-5-yl)phenol are treated with 40 ml of constant-boiling hydrobromic acid, whereupon the mixture is stirred at 140° for 8 hours under a nitrogen atmostphere. After cooling, the mixture is poured on to ice. The separated precipitate is filtered under suction and recrystallized from ether. There is obtained 3-nitro-5-(1H-tetrazol-5-yl)-pyrocatechol in the form of orange crystals of m.p. >240° (dec.).

reactant | 2-methoxy-6-nitro-4-(1H-tetrazol-5-yl)phenol | 4.0 g | COC1=C(C(=CC(=C1)C1=NN=NN1)[N+](=O)[O-])O | C8H7N5O4
solvent | hydrobromic acid | 40 ml | Br | BrH
product | 3-nitro-5-(1H-tetrazol-5-yl)-pyrocatechol | [N+](=O)([O-])C1=C(C(O)=CC(=C1)C1=NN=NN1)O | C7H5N5O4
